US05135932
6-[2-[2-[3-(2-Allyloxy-phenoxy)-2-hydroxypropylamino]ethyl]benzimidazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone
Prepared analogously to Example 1 from 1-(2-allyloxy-phenoxy)-2,3-epoxypropane and 6-[2-(2-aminoethyl)benzimidazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone.

reactant | 1-(2-allyloxy-phenoxy)-2,3-epoxypropane | C(C=C)OC1=C(OCC2CO2)C=CC=C1 | C12H14O3
reactant | 6-[2-(2-aminoethyl)benzimidazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone | NCCC=1NC2=C(N1)C=CC(=C2)C=2CCC(NN2)=O | C13H15N5O
product | 6-[2-[2-[3-(2-Allyloxy-phenoxy)-2-hydroxypropylamino]ethyl]benzimidazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone | C(C=C)OC1=C(OCC(CNCCC=2NC3=C(N2)C=CC(=C3)C=3CCC(NN3)=O)O)C=CC=C1 | C25H29N5O4
